US06087357
Thionyl chloride (2.1 ml) was added to a solution of 4-morpholino-2-butyn-1-ol (1.47 g) in dichloromethane (10 ml) with ice bath cooling. After stirring for 0.5 hour, the solution was evaporate din vacuo. The residue was triturated with ethyl acetate to give 4-morpholino-2-butynyl chloride hydrochloride (1.91 g).

reactant | Thionyl chloride | 2.1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-morpholino-2-butyn-1-ol | 1.47 g | O1CCN(CC1)CC#CCO | C8H13NO2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-morpholino-2-butynyl chloride hydrochloride | 1.91 g | Cl.O1CCN(CC1)CC#CCCl | InChI=1S/C8H12ClNO.ClH/c9-3-1-2-4-10-5-7-11-8-6-10;/h3-8H2;1H
